US05104888
Ethyl 6-hydroxy-5,7,8-trimethylchroman-2-carboxylate (Step C4)
14 g of ethyl 6-hydroxy-5,7,8-trimethyl-4-oxo-2H-chromene-2-carboxylate [prepared as described in J. Med. Chem., 18, 934 (1975)] were dissolved in 320 ml of acetic acid, and the resulting solution was catalytically reduced for 1 hour at 60°-65° C., under a hydrogen pressure of 3 atmospheres and in the presence of 3.5 g of 10% w/w palladium-on-carbon. The catalyst was filtered off, and the filtrate was poured into water. The white crystals which separated were collected by filtration, to give the title compound, melting at 108°-109° C.

reactant | ethyl 6-hydroxy-5,7,8-trimethyl-4-oxo-2H-chromene-2-carboxylate | 14 g | OC=1C(=C2C(CC(OC2=C(C1C)C)C(=O)OCC)=O)C | C15H18O5
solvent | acetic acid | 320 ml | C(C)(=O)O | C2H4O2
catalyst | palladium-on-carbon | [Pd] | Pd
product | Ethyl 6-hydroxy-5,7,8-trimethylchroman-2-carboxylate | OC=1C(=C2CCC(OC2=C(C1C)C)C(=O)OCC)C | C15H20O4
